US07414067B2
N-(3-Acetyl-3-cyclohexylaminoprop-1-yl)-1-(4-chlorobenzoyl)-5-methoxy-2-methylindole-3-acetamide
To a solution of 0.100 g (0.2 mmol) of N-(3-cyclohexylaminoprop-1-yl)-1-(4-chlorobenzoyl)-5-methoxy-2-methylindole-3-acetamide in 1 mL of anhydrous dichloromethane was added 0.04 mL (0.24 mmol) of diisopropylethyl amine followed by 0.015 mL (0.2 mmol) of acetyl chloride. The reaction was stirred at room temperature for 20 hr then diluted with more dichloromethane (2 mL). The solution was washed with dilute aqueous citric acid (1 mL) before drying (Na2SO4), filtering and evaporating. The residue was purified by preparative HPLC to give the title compound. 1H NMR (CDCl3) δ 7.68 (2H, d), 7.39 (2H, d), 7.16 (1H, bt), 6.86 (1H, d), 6.79 (1H, d), 6.61 (1H, dd), 3.75 (3H, s), 3.57 (2H, s), 3.36 (1H, bt), 3.06 (4H, m), 2.33 (3H, s), 1.96 (3H, s), 0.9-1.8 (12H, m).

reactant | N-(3-cyclohexylaminoprop-1-yl)-1-(4-chlorobenzoyl)-5-methoxy-2-methylindole-3-acetamide | 0.2 mmol, 0.100 g | C1(CCCCC1)NCCCNC(CC1=C(N(C2=CC=C(C=C12)OC)C(C1=CC=C(C=C1)Cl)=O)C)=O | C28H34ClN3O3
reactant | diisopropylethyl amine | 0.24 mmol, 0.04 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | acetyl chloride | 0.2 mmol, 0.015 mL | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | N-(3-Acetyl-3-cyclohexylaminoprop-1-yl)-1-(4-chlorobenzoyl)-5-methoxy-2-methylindole-3-acetamide | C(C)(=O)C(CCNC(CC1=C(N(C2=CC=C(C=C12)OC)C(C1=CC=C(C=C1)Cl)=O)C)=O)NC1CCCCC1 | C30H36ClN3O4
